* PSpice Model Editor - Version 16.6.0
*$
* BA4560
*
* Rev.002 2016.May
*
* Low Noise Operational Amplifier 'Macromodel' Subcircuit
*
* All Rights Reserved Copyright (c) ROHM CO., LTD.
*
.subckt BA4560 OUT1 -IN1 +IN1 VEE +IN2 -IN2 OUT2 VCC
X_U1 +IN1 -IN1 VCC VEE OUT1  ba4560_sub
X_U2 +IN2 -IN2 VCC VEE OUT2  ba4560_sub
.ends
*$
.SUBCKT ba4560_sub +IN -IN VCC VEE OUT
R_R27         N227606 N165981  10 TC=0.001,0 
R_R24         N226095 VCC  1.4k TC=0.0037,0  
Q_Q17         N227264 N168651 VCC QP3 38.7
Q_Q1         N165977 -IN N164947 QP2 27.1
Q_Q50         N226799 N165981 N226803 QN1 17
Q_Q9         N165977 N165977 N165985 QN1 2
R_R23         VEE N165985  4k TC=0.001,0 
Q_Q49         N168651 N168651 VCC QP1 1 
C_C3         N227606 N227621  11.0p  TC=0,0               
R_R26         VEE N226803  32k TC=0.001,0 
G_G1         N168651 VEE N215189 VEE 1 
R_R20         VEE N215189  40 TC=0.0015,-0.00001 
Q_Q2         N165981 +IN N164947 QP2 27.1
I_I5         VEE N215189 DC 1uAdc  
Q_Q51         N227621 N226803 VEE QN2 4
C_C2         VEE N165985  30p  TC=0,0 
R_R22         VEE N166000  4k TC=0.001,0 
Q_Q10         N165981 N165977 N166000 QN1 2
R_R25         N226799 VCC  900 TC=0.001,0 
Q_Q15         N164947 N168651 N226095 QP1 10.0
Q_Q52         VEE N168651 VCC QP4 18.0
R_R28         N227621 N233224  50k TC=0.001,0 
Q_Q53         VEE N227621 N233626 QP3 1
Q_Q54         VCC N227264 N233088 QN2 10
Q_Q55         N227264 N227264 N233224 QN1 4
Q_Q56         N227264 N233224 N227621 QN1 4
R_R29         OUT N233088  50 TC=0.001,0 
R_R30         N233626 OUT  100 TC=0.001,0
*
*
*
.model QN1 npn
+ is=5e-016
+ bf=380
+ nf=1
+ vaf=100
+ ikf=0.001
*
.model QN2 npn
+ is=5e-016
+ bf=400
+ nf=1
+ vaf=100
+ ikf=0.001
+ xtb=1
*
.model QP1 pnp
+ is=7e-016
+ bf=100
+ nf=1
+ vaf=45
+ ikf=2.0e-005
+ xti=2
*
.model QP2 pnp
+ is=5e-016
+ bf=183
+ nf=1
+ vaf=40
+ ikf=0.25e-005
+ xti=2
*
.model QP3 pnp
+ is=5e-016
+ bf=1400
+ nf=1
+ vaf=100
+ ikf=2e-005
+ xti=1.5
*
.model QP4 pnp
+ is=5e-016
+ bf=2000
+ nf=1
+ vaf=50
+ ikf=2e-005
+ xti=-1
.ends
*$
